Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Influenza Virus Vaccine / latex
 
Attending: ___.
 
Chief Complaint:
abdominal distension
 
Major Surgical or Invasive Procedure:
colonoscopy
 
History of Present Illness:
___ w/nausea, weight loss, fatigue and stool caliber changes 
for 6 months presents for colonoscopy. Of note pt has had 2 
prior colonoscopies and syncopized during prep both times. Pt 
reports that since discharge on ___ her GI symptoms have not 
improved, and may be slightly worse. She is able to tolerate 
liquids without difficulty but notes that any solid food feels 
like it gets stuck and causes her discomfort, she thus has had 
poor PO intake and weight loss. She also notes that her last BM 
was 4 days ago despite taking miralax BID and senna for the past 
3 days. She is passing flatus and while she has abdominal 
distension and discomfort associated with that she denies pain.

ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
Rheumatic Heart Disease 
pHTN SIADH                                                       
    
Neuropathy 
IMPNS 
Spinal Stenosis 
Melanoma 
Recurrent pleural effusion
Breast cancer s/p L mastectomy
s/p total hip 
 
Social History:
___
Family History:
Father died at ___ from emphysema, he was not a smoker. 
Mother had CVA and hypertension and pasted at ___.  
One brother passed away at ___ from lymphoma.
 
Physical Exam:
Vitals: T:97.6 BP:133/59 P:95 R:18 O2:98%ra  
PAIN: 0
General: nad
Lungs: clear anteriorly
CV: rrr +murmur
Abdomen: bowel sounds present, soft, distended, nontender
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

 
Pertinent Results:
___ 08:00PM   WBC-5.6 RBC-3.59* HGB-11.9* HCT-35.7* MCV-99* 
MCH-33.1* MCHC-33.3 RDW-13.1
___ 08:00PM   PLT COUNT-290#
___ 08:00PM   ___ PTT-27.8 ___
___ 08:00PM   GLUCOSE-91 UREA N-19 CREAT-0.7 SODIUM-127* 
POTASSIUM-4.4 CHLORIDE-90* TOTAL CO2-22 ANION GAP-19
___ 08:00PM   PHOSPHATE-4.2# MAGNESIUM-2.0

Colonoscopy:
Impression: Stool in the colon
Limited exam secondary to poor prep did not reveal large masses.
Otherwise normal colonoscopy to cecum 
Recommendations: -Further care per inpatient team
-If further colonoscopy is warranted then an extended ___ day 
prep will be necessary. 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ w/nausea, weight loss, fatigue and 
stool caliber changes for 6 months presents for colonoscopy 

Nausea/Weight Loss/Constipation:
Patient had significant fecal loading making prep quite 
difficult.  She required several MoviePrep and Mg citrate over 
48+hrs.  Despite this, colonoscopy was suboptimal with poor 
prep.  However, they made it to the cecum and grossly there were 
no large masses.  She was initiated on BID MiraLax.  The 
findings were discussed to her in detail.  MRI Pelvis was 
offered to her several times, but she declined at this time.  
This can be reconsidered in the future based on her wishes.

Anemia, NOS: mild, baseline Hgb~12.5, low ferritin in ___.  No 
signs of bleeding

Hyponatremia: history SIADH but also with poor PO intake.  
Improved with IVF and remained stable thereafter

Spinal Stenosis/Neuropathy: Resumed home gabapentin on discharge

Recurrent pleural effusion: IP came by and removed her sutures.  
Follow up is not needed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.25 mg PO QHS 
2. Furosemide 20 mg PO DAILY 
3. Gabapentin 200 mg PO BID 
4. Lisinopril 10 mg PO DAILY 
5. Spironolactone 25 mg PO DAILY 
6. Venlafaxine XR 37.5 mg PO QAM 
7. Venlafaxine XR 75 mg PO QPM 
8. Acetaminophen 1000 mg PO TID 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID 
2. Aspirin 81 mg PO DAILY 
3. ClonazePAM 0.25 mg PO QHS 
4. Gabapentin 200 mg PO BID 
5. Lisinopril 10 mg PO DAILY 
6. Venlafaxine XR 37.5 mg PO QAM 
7. Venlafaxine XR 75 mg PO QPM 
8. Furosemide 20 mg PO DAILY 
9. Spironolactone 25 mg PO DAILY 
10. Polyethylene Glycol 17 g PO BID 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 packet by mouth 
twice a day Disp #*60 Packet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Constipation
Fatigue/weight loss
SIADH
Spinal Stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to prep for colonoscopy.  You had significant 
stool and despite 2 days of prepping, colonoscopy was still poor 
quality.  Fortunately, what we did see was normal.  We recommend 
increasing your stool softeners and monitoring your symptoms.  
We would recommend consideration of an outpatient MRI and 
further testing if your symptoms persist.  Please follow up 
closely with your PCP.
 
Followup Instructions:
___